US07125869B2
1 ml of concentrated sulfuric acid is added to a solution of 1.2 g (1.9 mmol) of ethyl 3-[3′-({[6-(2-methoxyethoxymethoxy)naphthalene-2-carbonyl]methylamino}methyl)biphenyl-4-ylamino]benzoate in 10 ml of methanol and 10 ml of tetrahydrofuran. The reaction medium is stirred at room temperature for 6 hours, diluted with ethyl acetate and washed with water. After extraction, the organic phase is dried over magnesium sulfate, filtered and concentrated under vacuum. The residue obtained is purified by chromatography on a column of silica eluted with a 60/40 heptane/ethyl acetate mixture. 1 g of ethyl 3-(3′-{[(6-hydroxynaphthalene-2-carbonyl) methylamino]methyl}biphenyl-4-ylamino)benzoate is obtained in the form of a beige-colored foam, in a yield of 80%.

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 3-[3′-({[6-(2-methoxyethoxymethoxy)naphthalene-2-carbonyl]methylamino}methyl)biphenyl-4-ylamino]benzoate | 1.9 mmol, 1.2 g | COCCOCOC=1C=C2C=CC(=CC2=CC1)C(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)NC=1C=C(C(=O)OCC)C=CC1 | C38H38N2O6
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(3′-{[(6-hydroxynaphthalene-2-carbonyl) methylamino]methyl}biphenyl-4-ylamino)benzoate | 1 g, yield of 80% | OC=1C=C2C=CC(=CC2=CC1)C(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)NC=1C=C(C(=O)OCC)C=CC1 | C34H30N2O4
